US06939887B2
Synthesis of 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-1-[2-(trifluoromethyl)benzyl]-2,3-dihydro-1H-benzimidazole-5-carboxamide trifluoroacetate
A solution of 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-1-[2-(trifluoromethyl)benzyl]-2,3-dihydro-1H-benzimidazole-5-carbonitrile (2.8 mg) in t-butanol (2 ml) was stirred with heating at 60° C. To the solution was added powdered potassium hydroxide crashed in mortar (24.3 mg), and the mixture was stirred with heating at 60° C. for 30 minutes. To the reaction mixture was added 1N hydrochloric acid, and the mixture was concentrated in vacuo. The resultant residue was purified by HPLC using condition 2 to give the title compound (4.0 mg, quantitative yield).

reactant | 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-1-[2-(trifluoromethyl)benzyl]-2,3-dihydro-1H-benzimidazole-5-carbonitrile | 2.8 mg | C(C)N(CCN1C(N(C2=C1C=C(C=C2C(F)(F)F)C#N)CC2=C(C=CC=C2)C(F)(F)F)=O)CC | C23H22F6N4O
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | t-butanol | 2 ml | C(C)(C)(C)O | C4H10O
product | 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-1-[2-(trifluoromethyl)benzyl]-2,3-dihydro-1H-benzimidazole-5-carboxamide trifluoroacetate | 4.0 mg, quantitative yield | FC(C(=O)O)(F)F.C(C)N(CCN1C(N(C2=C1C=C(C=C2C(F)(F)F)C(=O)N)CC2=C(C=CC=C2)C(F)(F)F)=O)CC | InChI=1S/C23H24F6N4O2.C2HF3O2/c1-3-31(4-2)9-10-32-18-12-15(20(30)34)11-17(23(27,28)29)19(18)33(21(32)35)13-14-7-5-6-8-16(14)22(24,25)26;3-2(4,5)1(6)7/h5-8,11-12H,3-4,9-10,13H2,1-2H3,(H2,30,34);(H,6,7)
